US06403824B2
Preparation of 7-Oxa-bicyclo[2.2.1]hept-5-ene-2-carboxylic Acid Ethyl Ester (Endo/Exo Mixture)
A mixture of 300 g of furan (4.32 mol) and 611 g (6.05 mol) of ethyl acrylate was cooled to 3° C. in an ice bath under an inert atmosphere. 706 g (5.2 mol) of zinc chloride were added portionwise to the solution during 30 min, maintaining the temperature at between 10° C. and 20° C. After completed addition, the cooling bath was removed and the mixture was allowed to gradually heat up during 30 min to 50° C. by exothermy. It was subsequently kept at 50° C. during 27 h by means of an oil bath, then cooled to 40° C. and diluted with 200 ml of dichloromethane in order to reduce its viscosity. The solution was subsequently cooled to room temperature, poured on a mixture of 1.0 kg of crushed ice and 1.5 l of water and extracted. The aqueous phase was extracted with 2.5 l of ethyl acetate, and the combined organic phases were subsequently washed with 2.5 l of water, a solution of 109 g sodium bicarbonate in 2.5 l water, and 250 ml of brine. The organic phase was dried over sodium sulfate, filtered, evaporated at 45° C./1 mbar and dried at 40° C./0.06 mbar for 45 min, to yield 580 g (80%) of a 87:13 exo/endo mixture of product. Purity: 98% (HPLC; ISTD).

reactant | furan | 4.32 mol, 300 g | O1C=CC=C1 | C4H4O
reactant | ethyl acrylate | 6.05 mol, 611 g | C(C=C)(=O)OCC | C5H8O2
catalyst | zinc chloride | 5.2 mol, 706 g | [Cl-].[Zn+2].[Cl-]
product | 7-Oxa-bicyclo[2.2.1]hept-5-ene-2-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1C2C=CC(C1)O2 | C9H12O3
